US04868099
(a) Cetyl sulphinic acid
200 g of cetyl sulphonic acid chloride are introduced at room temperature into 87 ml of hydrazine hydrate in 600 ml of methanol. The sulphonic acid hydrazide precipitates and may be separated by suction filtration. The residue is then introduced into a solution of 48 g of NaOH in 1,500 ml of water and 1,000 ml of methanol and slowly heated to boiling with stirring. The solvent is slowly distilled off and the temperature is maintained at 90° to 95° C. for about 4 hours. The sodium salt of cetyl sulphinic acid is separated by suction filtration after cooling. The compound is dried.

reactant | cetyl sulphonic acid chloride | 200 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
reactant | hydrazine hydrate | 87 ml | O.NN
solvent | methanol | 600 ml | CO | CH4O
product | Cetyl sulphinic acid | C(CCCCCCCCCCCCCCC)S(=O)O | C16H34O2S
